US06992083B2
N-(4-Methoxy-7-morpholin-4-yl-benzooxazol-2-yl)-6-methyl-nicotinamide
From 6-methyl-nicotinic acid, HATU and N-diethylisopropylamine in THF, then treatment with 4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl-amine in dioxane and DMF. ES-MS m/e (%): 369 (M+H+, 100).

reactant | 6-methyl-nicotinic acid | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methoxy-7-morpholin-4-yl-benzooxazol-2-yl-amine | COC1=CC=C(C2=C1N=C(O2)N)N2CCOCC2 | C12H15N3O3
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-Methoxy-7-morpholin-4-yl-benzooxazol-2-yl)-6-methyl-nicotinamide | COC1=CC=C(C2=C1N=C(O2)NC(C2=CN=C(C=C2)C)=O)N2CCOCC2 | C19H20N4O4
